US05952511
1-(2,2-Diethoxyethyl)isatin
To a solution of 31 g of 1-(2,2-diethoxyethyl)-3,3-dichloroindolin-2-one in 200 ml of dimethyl sulfoxide was added dropwise 50 ml of an aqueous solution of 14.5 g of sodium hydroxide in such a manner that the reaction temperature might not exceed 20° C., followed by stirring at the same temperature for 45 minutes. To the mixture was slowly added 15.5 ml of concentrated hydrochloric acid, followed by stirring at room temperature for 1.5 hours. Ethyl acetate was added to the reaction mixture, and the mixture was washed successively with water and an aqueous solution of sodium hydrogencarbonate. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 25 g of the title compound.

reactant | 1-(2,2-diethoxyethyl)-3,3-dichloroindolin-2-one | 31 g | C(C)OC(CN1C(C(C2=CC=CC=C12)(Cl)Cl)=O)OCC | C14H17Cl2NO3
reactant | sodium hydroxide | 14.5 g | [OH-].[Na+]
reactant | hydrochloric acid | 15.5 ml | Cl | ClH
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 1-(2,2-Diethoxyethyl)isatin | 25 g | C(C)OC(CN1C(=O)C(=O)C2=CC=CC=C12)OCC | C14H17NO4
